US07943622B2
Step 2. Synthesis of 2-(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)benzo[d]thiazole
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of tert-butyl 4-(benzo[d]thiazol-2-yl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate di-TFA salt (116.4 mg, 0.215 mmol) in MeOH (1 mL). After 12 h, the reaction mixture was concentrated under reduced pressure and purified by HPLC (5 to 50% MeCN/0.1% TFA in H2O/0.1% TFA gradient). The fractions containing the desired product were brought to pH 12 with 1 N NaOH and were extracted with EtOAc (3×). The combined organics were dried over Na2SO4, filtered, and concentrated under reduced pressure. This gave 41.7 mg (59%) of the desired product as an off-white, sticky solid. LC-MS: RT=4.38 min, [M+H]+=327.1.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(benzo[d]thiazol-2-yl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate di-TFA salt | 0.215 mmol, 116.4 mg | OC(=O)C(F)(F)F.OC(=O)C(F)(F)F.S1C(=NC2=C1C=CC=C2)N2C(CN(CC2)C(=O)OC(C)(C)C)COC=2C=NC=CC2
solvent | MeOH | 1 mL | CO | CH4O
product | 2-(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)benzo[d]thiazole | N1=CC(=CC=C1)OCC1N(CCNC1)C=1SC2=C(N1)C=CC=C2 | C17H18N4OS
